US08729263B2
To a stirred solution of 1-(4-bromo-3-methoxyphenyl)-1H-imidazole in THF (5 mL) was added 2.5 M n-butyl lithium in hexanes (0.348 ml, 0.869 mmol) dropwise at −78° C. over 15 min. After addition was complete, the reaction solution was stirred at −78° C. for 15 min, and trimethyl borate (0.353 mL, 3.16 mmol) was added. The reaction was allowed to warm to RT, and continued to stir overnight. The reaction was quenched with 1 M HCl aqueous solution to pH 2, diluted with water and extracted with DCM (3×). The product remained in the aqueous solution which was concentrated in vacuo to give crude (4-(1H-imidazol-1-yl)-2-methoxyphenyl)boronic acid (120 mg, MS: 219.2 [M+H+]).

reactant | 1-(4-bromo-3-methoxyphenyl)-1H-imidazole | BrC1=C(C=C(C=C1)N1C=NC=C1)OC | C10H9BrN2O
reactant | n-butyl lithium | 2.5 M | C(CCC)[Li]
reactant | trimethyl borate | 3.16 mmol, 0.353 mL | B(OC)(OC)OC | C3H9BO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (4-(1H-imidazol-1-yl)-2-methoxyphenyl)boronic acid | 120 mg | N1(C=NC=C1)C1=CC(=C(C=C1)B(O)O)OC | C10H11BN2O3
